US04143039
To a stirred solution of 0.78 g. (0.002 mole) of 6-(2-amino-2-[p-hydroxyphenyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam in 40 ml. of 1:1 acetone-water, the pH of which has been adjusted to 6.0 by the addition of sodium bicarbonate solution, is added 0.238 g. (0.002 mole) of phenyl isocyanate, at ambient temperature. Stirring is continued at ambient temperature for a further 30 minutes, and then 50 ml. of ether acetate is added. The pH of the aqueous phase is lowered to 1.5 with 1 N hydrochloric acid, and then the organic layer is removed, dried and evporated to dryness in vacuo. The residue is re-dissolved in a small volume of ethanol, to which 0.2 ml. of triethylamine is then added. The resulting solution is added dropwise to 200 ml. of ether, with vigorous stirring, and then the solid which precipitates is filtered off. This affords 0.8 g. (66% yield) of 6-(2-[3-phenylureido]-2-[p-hydroxyphenyl] acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam as its triethylamine salt, m.p. 165°-170° C. (dec.). The infrared spectrum of the product (KBr disc) shows absorptions at 1790 cm-1 (β-lactam) and 1670 cm-1 (amide I). The NMR spectrum (DMSO-d6 /D2O) shows absorption at 7.60-6.70 ppm (multiplet, 9H, aromatic hydrogens), 5.80-5.50 ppm (multiplet, 3H, C-5 and C-6 hydrogens, and side-chain methine hydrogen), 5.05 ppm (singlet, 1H, C-3 hydrogen), 3.05 ppm (quartet, 6H, N-CH2CH3), 1.55 ppm (singlet, 3H, C-2 methyl hydrogen), 1.10 ppm (triplet, 9H, N-CH2CH3) and 0.95 ppm (singlet, 3H, C-2 methyl hydrogens).

reactant | 6-(2-amino-2-[p-hydroxyphenyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 0.002 mole | NC(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)C1=CC=C(C=C1)O | C16H19N7O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phenyl isocyanate | 0.002 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | ether acetate | CCOCC.C(C)(=O)[O-]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetone water | CC(=O)C.O
product | 6-(2-[3-phenylureido]-2-[p-hydroxyphenyl] acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 66% yield | C1(=CC=CC=C1)NC(NC(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)C1=CC=C(C=C1)O)=O | C23H24N8O4S
